US06083943
To a stirred suspension of glycine methyl ester hydrochloride (11.8 g, 94.2 mmol) in EtOH (80 ml) was added Et3N (13.1 ml, d0.726, 94.2 mmol) at room temperature. To this heterogeneous mixture was added a solution of benzaldehyde (10.0 g, 94.2 mmol) in EtOH (20 ml) dropwise at room temperature. At the end of the addition turbidity of the reaction mixture decreased to a considerable extent. After stirring at room temperature for 2 hours, the solvent EtOH was evaporated in vacuo. To the residue was added half sat. NaCl aq. solution (20 ml), and the mixture was extracted with AcOEt (80 ml ×1). The AcOEt solution was washed with sat. NaCl aq. solution (×1), dried (Na2SO4), and concentrated in vacuo to give crude N-benzylidene glycine methyl ester (15.5 g, 93%). To a stirred mixture of freshly prepared crude N-benzylidene glycine methyl ester (15.5 g, 87.5 mmol), anhydrous LiBr (11.4 g, 131 mmol), and molecular sieves 4A (activated powder, Aldrich, 20.0 g) in dry THF (160 ml) was added a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 16.0 g, 105 mmol) in dry THF (20.0 ml) dropwise with cooling in a dry ice-acetone bath under an atmosphere of N2. To the resulting orange reaction mixture was added a solution of methyl (E)-4-benzyloxybutenoate (15.7 g, 76.1 mmol, known compound in the literatures: (a) Villieras, J.; Rambaud, M.; Graff, M.; Tetrahedron Lett., 26, 53 (1985), (b) Villieras, J.; Rambaud, M.; Synthesis 300 (1983) and (c) Solladi, G.; Frechou, C.; Hutt, J.; Demailly, G.; Bull. Soc. Chim. Fr., 827, (1987)) in dry THF (20 ml) dropwise with dry ice-acetone cooling, during which the orange color vanished. The white reaction mixture was stirred under the same cooling conditions for an hour, and then at room temperature for additional 30 minutes; at this point, the reaction mixture became yellow, and methyl (E)-4-benzyloxybutenoate was consumed completely. The reaction mixture was re-cooled in the dry ice acetone bath, and sat. NH4Cl aq. solution (50 ml) was added. After adding Celite, the mixture was filtered through a pad of Celite, and the filter cake was washed with AcOEt (50 ml×3). The organic layer was separated from the combined filtrate and washings, and the aqueous layer was extracted with AcOEt (30 ml×3). The combined organic layer and AcOEt extracts were washed with sat. NaCl aq. solution (×2), dried (Na2SO4), and concentrated in vacuo to give a pale yellow oil (31.8 g). This was chromatographed over silica gel (SiO2, Merck Kieselgel 60, 250 g). Elution with n-hexane-AcOEt(7:1→5:1) gave practically pure title compound (19.8 g, 685%) as a pale yellow viscous oil: IRmax (film): 3350(w), 1735(vs), 1605(w), 1490(m), 1205(s), 1170(s), 750(s), 700(vs) cm-1 ; 1H-NMR δ: 7.48-7.18(m, 10H), 4.60(d, J=8.1 Hz, 1H), 4.56(s, 2H), 3.89(d, J=7.7 Hz, 1H), 3.79(s, 3H), 3.67(d, J=4.8 Hz, 2H), 3.37(dd, J=8.1, 5.5 Hz, 1), 3.20(s, 3H), 2.96(ddt, J=5.5, 7.7, 4.8 Hz, 1H) ppm.

reactant | glycine methyl ester hydrochloride | 94.2 mmol, 11.8 g | Cl.COC(CN)=O
reactant | Et3N | 94.2 mmol, 13.1 ml | CCN(CC)CC | C6H15N
reactant | benzaldehyde | 94.2 mmol, 10.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | EtOH | 80 ml | CCO | C2H6O
solvent | EtOH | 20 ml | CCO | C2H6O
product | N-benzylidene glycine methyl ester | 15.5 g, 93% | COC(CN=CC1=CC=CC=C1)=O | C10H11NO2
